US07846960B2
A solution of 4-bromo-3-methyl-phenol (135 mg, 0.723 mmol) and 5-bromomethyl-1-(2,6-dichloro-phenyl)-4-isopropyl-1H-pyrazole (210 mg, 0.603 mmol) in dimethylformamide (1.0 mL) is treated with potassium carbonate (84 mg, 0.603 mmol). The reaction mixture is heated at 80° C. for 60 minutes and cooled to room temperature. The mixture is loaded directly onto a silica gel column and purified with 25% EtOAc/Hexanes to provide 5-(4-bromo-3-methyl-phenoxymethyl)-1-(2,6-dichloro-phenyl)-4-isopropyl-1H-pyrazole (0.258 g, 94%). ES/MS m/e (M+1) 454.8.

reactant | 4-bromo-3-methyl-phenol | 0.723 mmol, 135 mg | BrC1=C(C=C(C=C1)O)C | C7H7BrO
reactant | 5-bromomethyl-1-(2,6-dichloro-phenyl)-4-isopropyl-1H-pyrazole | 0.603 mmol, 210 mg | BrCC1=C(C=NN1C1=C(C=CC=C1Cl)Cl)C(C)C | C13H13BrCl2N2
reactant | potassium carbonate | 0.603 mmol, 84 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
product | 5-(4-bromo-3-methyl-phenoxymethyl)-1-(2,6-dichloro-phenyl)-4-isopropyl-1H-pyrazole | 0.258 g, 94% | BrC1=C(C=C(OCC2=C(C=NN2C2=C(C=CC=C2Cl)Cl)C(C)C)C=C1)C | C20H19BrCl2N2O
